US04515806
a 20 g sample of N-[2-[[(5-[(dimethylamino)methyl]-2-furanyl)methyl]thio]ethyl]-N'-(2-hydroxyethyl)-2-nitro-1,1-ethenediamine (58 mmoles) was dissolved in 100 ml of ethanol (99-100%) and there were added slowly 25 ml of isopropyl alcohol containing 58 mmoles of hydrochloric acid. The mixture was left under stirring overnight and the solid precipitate was filtered, washed with ethanol and dried to give 18 g of N-[2-[[(5-[(dimethylamino)methyl]-2-furanyl)methyl]thio]ethyl]-N'-(2-hydroxyethyl)-2-nitro-1,1-ethenediamine hydrochloride, in the form of white crystals, soluble in water and methanol, m.p. 119°-122° C.

reactant | N-[2-[[(5-[(dimethylamino)methyl]-2-furanyl)methyl]thio]ethyl]-N'-(2-hydroxyethyl)-2-nitro-1,1-ethenediamine | 58 mmoles | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCO | C14H24N4O4S
reactant | isopropyl alcohol | 58 mmoles, 25 ml | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[2-[[(5-[(dimethylamino)methyl]-2-furanyl)methyl]thio]ethyl]-N'-(2-hydroxyethyl)-2-nitro-1,1-ethenediamine hydrochloride | 18 g | Cl.CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCO | InChI=1S/C14H24N4O4S.ClH/c1-17(2)9-12-3-4-13(22-12)11-23-8-6-16-14(10-18(20)21)15-5-7-19;/h3-4,10,15-16,19H,5-9,11H2,1-2H3;1H
